US06291423B1
A solution of bromoacetyl bromide (0.49 ml; 5.65 mmol) in tetrahydrofuran (12 ml) is added, at 0° C., to a mixture of oleyl alcohol (1.00 ml; 3.77 mmol) and diisopropylethylamine (0.88 g; 5.65 mmol) in tetrahydrofuran (38 ml). The mixture is stirred for 2 h at 0° C. and then for 1 h at room temperature; it is then washed with 1N hydrochloric acid solution (20 ml) which is extracted with ether (50 ml). The combined organic phases are washed with saturated sodium carbonate solution (20 ml), dried over sodium sulfate, concentrated under reduced pressure and purified by chromatography on a column of silica gel (eluent: 99/1 hexane/ether) to give oleyl 2-bromoacetate (1.31 g; 89%) in the form of a colorless oil.

reactant | bromoacetyl bromide | 5.65 mmol, 0.49 ml | BrCC(=O)Br | C2H2Br2O
reactant | oleyl alcohol | 3.77 mmol, 1.00 ml | C(CCCCCCC\C=C/CCCCCCCC)O | C18H36O
reactant | diisopropylethylamine | 5.65 mmol, 0.88 g | C(C)(C)N(CC)C(C)C | C8H19N
solvent | tetrahydrofuran | 12 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 38 ml | O1CCCC1 | C4H8O
product | oleyl 2-bromoacetate | 1.31 g, 89% | BrCC(=O)OCCCCCCCC\C=C/CCCCCCCC | C20H37BrO2
